US06025170
A 21 bioreactor containing 1 1 medium of pH 6 and 35° C. was seeded with an inoculum of 50 ml of Clostridium tyrobutyricum I-776. The mixture was stirred at 300/min, and strict anaerobic and sterile conditions were maintained. After several hours, when the culture started to grow, indicated by the evolution of gas from the solution, the medium was fed with the sodium salt of 5-hydroxy-2-decenoic acid. After 52 h, 5-hydroxy-decanoic acid was obtained in a concentration of 1.75 g/l, corresponding to a conversion of 27%. 8δDecalactone can be obtained by acidification of the primary product.

reactant | sodium | [Na] | Na
reactant | 5-hydroxy-2-decenoic acid | OC(CC=CC(=O)O)CCCCC | C10H18O3
product | 5-hydroxy-decanoic acid | OC(CCCC(=O)O)CCCCC | C10H20O3
